US08754100B2
Synthesis of 4-[5-[6-methoxy-5-(4-methyl-imidazol-1-yl)-pyridin-2-yl]-2H-[1,2,4]-triazol-3-yl]-4-(2-trifluoromethylphenyl)-butyric acid
Ethyl 4-[5-[6-methoxy-5-(4-methyl-imidazol-1-yl)-pyridin-2-yl]-2H-[1,2,4]-triazol-3-yl]-4-(2-trifluoromethylphenyl)-butyrate (370 mg) was dissolved in tetrahydrofuran (1 ml). Water (1 ml) and 5 N sodium hydroxide (1 ml) were added and the reaction was initiated. After three hours, the reaction solution was partitioned with diethyl ether and water. The resulting aqueous layer was neutralized with 5 N hydrochloric acid and extracted with methylene chloride twice. Concentration under reduced pressure gave an orange oil (208 mg) which was used for the next step.

reactant | Ethyl 4-[5-[6-methoxy-5-(4-methyl-imidazol-1-yl)-pyridin-2-yl]-2H-[1,2,4]-triazol-3-yl]-4-(2-trifluoromethylphenyl)-butyrate | 370 mg | COC1=C(C=CC(=N1)C=1N=C(NN1)C(CCC(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)N1C=NC(=C1)C | C25H25F3N6O3
reactant | Water | 1 ml | O | H2O
reactant | sodium hydroxide | 5 N, 1 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-[5-[6-methoxy-5-(4-methyl-imidazol-1-yl)-pyridin-2-yl]-2H-[1,2,4]-triazol-3-yl]-4-(2-trifluoromethylphenyl)-butyric acid | 208 mg | COC1=C(C=CC(=N1)C=1N=C(NN1)C(CCC(=O)O)C1=C(C=CC=C1)C(F)(F)F)N1C=NC(=C1)C | C23H21F3N6O3
